US04332809
In the same manner as described in Example 1-(1), 4-methoxy-6-(4-acetylaminophenyl)-2-pyridinecarboxylic acid (0.46 g), carbonyldiimidazole (0.29 g) and 5-aminotetrazole (0.15 g) are reacted to give N-(5-tetrazolyl)-4-methoxy-6-(4-acetylaminophenyl)-2-pyridinecarboxamide (0.48 g). M.P. 286°-288° C. (decomp.) (recrystallized from dimethylformamide-ethanol)

reactant | 4-methoxy-6-(4-acetylaminophenyl)-2-pyridinecarboxylic acid | 0.46 g | COC1=CC(=NC(=C1)C1=CC=C(C=C1)NC(C)=O)C(=O)O | C15H14N2O4
reactant | carbonyldiimidazole | 0.29 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole | 0.15 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-4-methoxy-6-(4-acetylaminophenyl)-2-pyridinecarboxamide | 0.48 g | N1N=NN=C1NC(=O)C1=NC(=CC(=C1)OC)C1=CC=C(C=C1)NC(C)=O | C16H15N7O3
